US07713994B2
(4Z)-6-(3-Furyl)-4-({[2-(4-methylpiperazin-1-yl)pyrimidin-5-yl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
(4Z)-6-Iodo-4-({[2-(4-methylpiperazin-1-yl)pyrimidin-5-yl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (73.5 mg, 0.15 mmol) is mixed with 3-furanboronic acid (33 mg, 0.3 mmol), Pd2(dba)3 (20.6 mg, 0.022 mmol), and cesium carbonate (98 mg, 0.3 mmol). After the solids were degassed, N,N-dimethylformamide (1.05 mL) and P(t-Bu)3 (9.1 mg, 0.045 mmol) were added. The mixture is heated at 100 C for 55 min, diluted with methylene chloride, and filtered. The filtrate is evaporated to dryness and purified by column chromatography to yield 36 mg (55%) of the title compound as a yellow solid. MS (ESI) m/z 431 (M+H)+1

reactant | (4Z)-6-Iodo-4-({[2-(4-methylpiperazin-1-yl)pyrimidin-5-yl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 0.15 mmol, 73.5 mg | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC=1C=NC(=NC1)N1CCN(CC1)C | C19H19IN6O2
reactant | 3-furanboronic acid | 0.3 mmol, 33 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | cesium carbonate | 0.3 mmol, 98 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | P(t-Bu)3 | 0.045 mmol, 9.1 mg | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.022 mmol, 20.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | N,N-dimethylformamide | 1.05 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-(3-Furyl)-4-({[2-(4-methylpiperazin-1-yl)pyrimidin-5-yl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 36 mg, 55% | O1C=C(C=C1)C=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC=1C=NC(=NC1)N1CCN(CC1)C | C23H22N6O3
